US07524871B2
Synthesis of (±)-N-[(2-amino-4,5,6,7-tetrahydro-1,3-benzothiazol-6-yl)methyl]-2-[3-[(benzylsulfonyl)amino]-6-methyl-2-oxo-1(2 H)-pyridinyl]acetamide
The title compound was prepared from 2-[3-[(benzylsulfonyl)amino]-6 -methyl-2-oxo-1(2H)-pyridinyl]acetic acid and 6-(aminomethyl)-4,5,6,7-tetrahydro-1,3-benzothiazol-2 -amine dihydrobromide using the procedure of EXAMPLE 1 (STEP 6), and was obtained as a pale solid.

reactant | 2-[3-[(benzylsulfonyl)amino]-6 -methyl-2-oxo-1(2H)-pyridinyl]acetic acid | C(C1=CC=CC=C1)S(=O)(=O)NC=1C(N(C(=CC1)C)CC(=O)O)=O | C15H16N2O5S
reactant | 6-(aminomethyl)-4,5,6,7-tetrahydro-1,3-benzothiazol-2 -amine dihydrobromide | Br.Br.NCC1CC2=C(N=C(S2)N)CC1
product | (±)-N-[(2-amino-4,5,6,7-tetrahydro-1,3-benzothiazol-6-yl)methyl]-2-[3-[(benzylsulfonyl)amino]-6-methyl-2-oxo-1(2 H)-pyridinyl]acetamide | NC=1SC2=C(N1)CCC(C2)CNC(CN2C(C(=CC=C2C)NS(=O)(=O)CC2=CC=CC=C2)=O)=O | C23H27N5O4S2
